US05861437
2-(3-Hydroxypropyl)-6-methylphenol
To a borane-tetrahydrofuran complex solution (100 mL, 1M solution) was added dropwise 2-allyl-6-methylphenol (21 g) under ice-cooling. After stirring at room temperature for 3 hours, a 2N aqueous sodium hydroxide solution (55 mL) and a 30% aqueous hydrogen peroxide solution (12 mL) were added to the reaction mixture under ice-cooling. After stirring overnight at room temperature, the reaction mixture was acidified with a 2N hydrochloric acid and extracted with diethyl ether. The organic layer was washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by silica gel column chromatography and dried to give the title compound (15 g).

reactant | 2-allyl-6-methylphenol | 21 g | C(C=C)C1=C(C(=CC=C1)C)O | C10H12O
reactant | sodium hydroxide | 2N, 55 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 12 mL | OO | H2O2
reactant | hydrochloric acid | 2N | Cl | ClH
product | 2-(3-Hydroxypropyl)-6-methylphenol | 15 g | OCCCC1=C(C(=CC=C1)C)O | C10H14O2
